US05908944
b) 1-Methylandrosta-1,4-diene-3,17-dione (atamestan)
2.13 g (5 mmol) of 2β-iodo-1α-methylandrost-4-ene-3,17-dione from a) is introduced to a suspension, preheated to 130° C., of 0.73 g (10 mmol) of lithium carbonate in 10 ml of dimethylformamide and stirred at this temperature for 1.5 hours. After cooling, the reaction solution is added to 30 ml of water, extracted with ethyl acetate and after drying on sodium sulfate is concentrated by evaporation. The crude product is chromatographed on silica gel with ethyl acetate/hexane as mobile solvent. After recrystallization from ethyl acetate, 1.1 g of 1-methylandrosta-1,4-diene-3,17-dione (74% of theory) of a melting point of 169° C. is obtained.

reactant | 2β-iodo-1α-methylandrost-4-ene-3,17-dione | 5 mmol, 2.13 g | I[C@@H]1C(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2([C@H]1C)C)=O)=O | C20H27IO2
reactant | lithium carbonate | 10 mmol, 0.73 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | water | 30 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-Methylandrosta-1,4-diene-3,17-dione | CC1=CC(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)=O | C20H26O2
